2109-04-02 09:31:00 Physician Attending Progress Note
Chief Complaint: HOTN.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   63 yo women with severe diastolic dysfxn, presents with SOB and HOTN.
   24 Hour Events:
 EKG - At [**2109-4-1**] 02:02 PM
 MULTI LUMEN - START [**2109-4-1**] 05:29 PM
   Allergies:
   Lisinopril
   Rash; Abdominal
   Kefzol (Intraven.) (Cefazolin Sodium)
   Hives;
   Sulfa (Sulfonamide Antibiotics)
   Hives; Nausea/V
   Shellfish Derived
   facial swelling
   Last dose of Antibiotics:
   Infusions:
   Norepinephrine - 0.06 mcg/Kg/min
   Other ICU medications:
   Other medications:
   protonix
   SSI
   folate
   miconazole
   Fe
   cipro
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-4-2**] 09:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**10**] AM
   Tmax: 36
C (96.8
   Tcurrent: 35.2
C (95.3
   HR: 63 (63 - 83) bpm
   BP: 96/46(207) {82/39(48) - 133/77(207)} mmHg
   RR: 15 (8 - 25) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   CVP: 37 (26 - 37)mmHg
   Total In:
                                                                    877 mL
                                                                    100 mL
   PO:
                                                                    680 mL
   TF:
   IVF:
                                                                    197 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                  1,000 mL
                                                                    245 mL
   Urine:
                                                                  1,000 mL
                                                                    245 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -123 mL
                                                                   -145 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///30/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Breath Sounds: Crackles : R>L)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 3+
   Skin:  Cool
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.6 g/dL
   281 K/uL
   120 mg/dL
   2.4 mg/dL
   30 mEq/L
   4.4 mEq/L
   104 mg/dL
   93 mEq/L
   135 mEq/L
   24.8 %
   9.6 K/uL
        [image002.jpg]
                             [**2109-4-1**]  12:00 PM
                             [**2109-4-1**]  09:32 PM
                             [**2109-4-2**]  02:19 AM
   WBC
   12.1
   9.6
   Hct
   28.8
   26.8
   24.8
   Plt
   236
   281
   Cr
   2.5
   2.4
   2.4
   TropT
   0.01
   <0.01
   Glucose
   109
   120
   Other labs: PT / PTT / INR:13.0/26.4/1.1, CK / CKMB /
   Troponin-T:32//<0.01, ALT / AST:9/36, Alk Phos / T Bili:173/0.8,
   Differential-Neuts:94.4 %, Lymph:3.0 %, Mono:2.2 %, Eos:0.3 %, LDH:283
   IU/L, Ca++:9.3 mg/dL, Mg++:2.4 mg/dL, PO4:6.1 mg/dL
   Assessment and Plan
 HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC:  severe volume
   overload.  Will start lasix drip, and diuril.
   Will get echo.
   HOTN:  likely cardiac in nature, as no signs of systemic infection to
   cause SIRS/sepsis. (does have UTI which we are treating, but no WBC
   or fever).
   Acute on chronic renal failure:  If doesn't respond to lasix drip, will
   UF with HD catheter.
   UC:  continue asacol
   nausea:  on zofran PRN
   restless legs:  restart neurontin
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2109-4-1**] 11:20 AM
   Multi Lumen - [**2109-4-1**] 05:29 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2109-04-03 10:22:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   44 you women with ETOH hepatitis, renal failure, respiratory failure.
   Started on CVVH yesterday. Became hypotensive for which levophed was
   started.  Became bradycardic intially and then was ok.  FiO2 was
   weaned.  Has been about 100cc negative per hour.
   24 Hour Events:
 ARTERIAL LINE - START [**2109-4-2**] 03:32 PM
 DIALYSIS CATHETER - START [**2109-4-2**] 08:39 PM
 EKG - At [**2109-4-2**] 11:26 PM
   Allergies:
   Demerol (Oral) (Meperidine Hcl)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2109-3-31**] 06:20 PM
   Ceftriaxone - [**2109-4-2**] 09:30 PM
   Infusions:
   Norepinephrine - 0.02 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2109-4-3**] 08:00 AM
   Other medications:
   RRT
   thiamine
   lactulose
   pantroprazole
   propofol
   prednisone 40mg qd
   albumin
   SSI
   fluconazole
   CTX
   rifaxamin
   MVI
   folate
   lactulose enema
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-4-3**] 10:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**10**] AM
   Tmax: 37.6
C (99.6
   Tcurrent: 35.7
C (96.3
   HR: 64 (48 - 73) bpm
   BP: 110/60(75) {86/46(-26) - 114/68(82)} mmHg
   RR: 18 (15 - 27) insp/min
   SpO2: 100%
   Heart rhythm: JR (Junctional Rhythm)
   Wgt (current): 101.6 kg (admission): 101.5 kg
             Total In:
                                                                  3,890 mL
                                                                  3,366 mL
   PO:
             TF:
   IVF:
                                                                  2,341 mL
                                                                  3,366 mL
   Blood products:
                                                                  1,459 mL
   Total out:
                                                                  3,794 mL
                                                                  4,423 mL
   Urine:
                                                                     88 mL
                                                                     11 mL
   NG:
   Stool:
                                                                  1,000 mL
                                                                     75 mL
   Drains:
   Balance:
                                                                     96 mL
                                                                 -1,057 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 18 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 24 cmH2O
   Plateau: 20 cmH2O
   SpO2: 100%
   ABG: 7.39/37/139/21/-1
   Ve: 8.3 L/min
   PaO2 / FiO2: 278
   Physical Examination
   General Appearance: No(t) No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : posteriorly)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: Muscle wasting, No(t) Unable to stand
   Skin:  Warm, Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.2 g/dL
   67 K/uL
   153 mg/dL
   4.8 mg/dL
   21 mEq/L
   3.8 mEq/L
   24 mg/dL
   105 mEq/L
   142 mEq/L
   25.0 %
   17.2 K/uL
        [image002.jpg]
                             [**2109-4-2**]  03:39 PM
                             [**2109-4-2**]  03:55 PM
                             [**2109-4-2**]  08:43 PM
                             [**2109-4-2**]  08:56 PM
                             [**2109-4-2**]  11:32 PM
                             [**2109-4-2**]  11:46 PM
                             [**2109-4-3**]  03:14 AM
                             [**2109-4-3**]  03:38 AM
                             [**2109-4-3**]  09:15 AM
                             [**2109-4-3**]  09:32 AM
   WBC
   15.5
   17.2
   Hct
   24.7
   24.3
   23.5
   25.0
   Plt
   75
   67
   Cr
   6.9
   6.3
   4.8
   TropT
   <0.01
   TCO2
   17
   18
   20
   22
   23
   Glucose
   129
   126
   147
   153
   Other labs: PT / PTT / INR:30.1/46.4/3.0, CK / CKMB /
   Troponin-T:50//<0.01, ALT / AST:23/69, Alk Phos / T Bili:91/19.0,
   Fibrinogen:117 mg/dL, Lactic Acid:1.9 mmol/L, Albumin:3.6 g/dL, LDH:252
   IU/L, Ca++:9.4 mg/dL, Mg++:1.7 mg/dL, PO4:4.9 mg/dL
   Assessment and Plan
 BRADYCARDIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 HEPATORENAL SYNDROME
 .H/O CIRRHOSIS OF LIVER, ALCOHOLIC
   Respiratory failure:  wean PEEP.  Improved oxygenation with removal of
   fluid.
   ARF:  on CVVH , successfully removing fluid.
   ETOH hepatitis:  continue prednisone, will try to replace NGT to start
   PO lactulose.
   candidal UTI:  replace foley today.
   ICU Care
   Nutrition:
   Comments: start TFs once dobhoff is in.
   Glycemic Control:
   Lines:
   PICC Line - [**2109-3-31**] 03:08 PM
   Arterial Line - [**2109-4-2**] 03:32 PM
   Dialysis Catheter - [**2109-4-2**] 08:39 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill
   Chief Complaint:
   HPI:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2109-4-2**] 10:03 AM
 ARTERIAL LINE - START [**2109-4-2**] 12:29 PM
 CHEST PAIN - At [**2109-4-2**] 12:53 PM
 EKG - At [**2109-4-2**] 12:54 PM
 ULTRASOUND - At [**2109-4-2**] 03:50 PM
   renal
 URINE CULTURE - At [**2109-4-2**] 03:50 PM
 DIALYSIS CATHETER - START [**2109-4-2**] 06:26 PM
   Allergies:
   Lisinopril
   Rash; Abdominal
   Kefzol (Intraven.) (Cefazolin Sodium)
   Hives;
   Sulfa (Sulfonamide Antibiotics)
   Hives; Nausea/V
   Shellfish Derived
   facial swelling
   Last dose of Antibiotics:
   Infusions:
   Norepinephrine - 0.05 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1 grams/hour
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-4-3**] 10:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**10**] AM
   Tmax: 36.1
C (97
   Tcurrent: 35.8
C (96.4
   HR: 62 (58 - 72) bpm
   BP: 112/63(81) {82/49(62) - 125/72(91)} mmHg
   RR: 13 (7 - 21) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 92.5 kg (admission): 87.6 kg
   CVP: 39 (27 - 47)mmHg
   Mixed Venous O2% Sat: 60 - 97
   Total In:
                                                                  1,286 mL
                                                                  1,166 mL
   PO:
                                                                    720 mL
                                                                    100 mL
   TF:
   IVF:
                                                                    566 mL
                                                                  1,066 mL
   Blood products:
   Total out:
                                                                  1,532 mL
                                                                  1,564 mL
   Urine:
                                                                  1,120 mL
                                                                    367 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -246 mL
                                                                   -398 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: 7.41/43/81.[**Numeric Identifier 253**]/26/1
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.0 g/dL
   212 K/uL
   99 mg/dL
   1.8 mg/dL
   26 mEq/L
   4.2 mEq/L
   81 mg/dL
   98 mEq/L
   134 mEq/L
   23.0 %
   6.7 K/uL
        [image002.jpg]
                             [**2109-4-1**]  12:00 PM
                             [**2109-4-1**]  09:32 PM
                             [**2109-4-2**]  02:19 AM
                             [**2109-4-2**]  01:55 PM
                             [**2109-4-2**]  07:07 PM
                             [**2109-4-2**]  10:07 PM
                             [**2109-4-2**]  10:31 PM
                             [**2109-4-3**]  03:08 AM
                             [**2109-4-3**]  08:25 AM
                             [**2109-4-3**]  08:45 AM
   WBC
   12.1
   9.6
   6.7
   Hct
   28.8
   26.8
   24.8
   22.9
   23.2
   23.0
   Plt
   [**Telephone/Fax (3) 12144**]
   Cr
   2.5
   2.4
   2.4
   2.4
   1.9
   1.8
   TropT
   0.01
   <0.01
   0.01
   0.02
   TCO2
   28
   31
   28
   Glucose
   109
   120
   156
   146
   128
   116
   99
   Other labs: PT / PTT / INR:13.6/27.5/1.2, CK / CKMB /
   Troponin-T:30/3/0.02, ALT / AST:11/34, Alk Phos / T Bili:153/0.6,
   Differential-Neuts:94.4 %, Lymph:3.0 %, Mono:2.2 %, Eos:0.3 %, Lactic
   Acid:1.3 mmol/L, Albumin:3.5 g/dL, LDH:283 IU/L, Ca++:9.8 mg/dL,
   Mg++:2.3 mg/dL, PO4:4.7 mg/dL
   Assessment and Plan
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2109-4-1**] 11:20 AM
   Multi Lumen - [**2109-4-1**] 05:29 PM
   Arterial Line - [**2109-4-2**] 12:29 PM
   Dialysis Catheter - [**2109-4-2**] 06:26 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :
   Total time spent:

2109-04-03 10:48:00 Physician Attending Progress Note
Chief Complaint: respiratory distress.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   63 yo women with severe diastolic CHF, renal failure.  Started on CVVH
   yesterday to remove fluid.
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2109-4-2**] 10:03 AM
 ARTERIAL LINE - START [**2109-4-2**] 12:29 PM
 CHEST PAIN - At [**2109-4-2**] 12:53 PM
 EKG - At [**2109-4-2**] 12:54 PM
 ULTRASOUND - At [**2109-4-2**] 03:50 PM
   renal
 URINE CULTURE - At [**2109-4-2**] 03:50 PM
 DIALYSIS CATHETER - START [**2109-4-2**] 06:26 PM
   Allergies:
   Lisinopril
   Rash; Abdominal
   Kefzol (Intraven.) (Cefazolin Sodium)
   Hives;
   Sulfa (Sulfonamide Antibiotics)
   Hives; Nausea/V
   Shellfish Derived
   facial swelling
   Last dose of Antibiotics:
   Infusions:
   Norepinephrine - 0.05 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1 grams/hour
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-4-3**] 10:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**10**] AM
   Tmax: 36.1
C (97
   Tcurrent: 35.8
C (96.4
   HR: 62 (58 - 72) bpm
   BP: 112/63(81) {82/49(62) - 125/72(91)} mmHg
   RR: 13 (7 - 21) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 92.5 kg (admission): 87.6 kg
   CVP: 39 (27 - 47)mmHg
   Mixed Venous O2% Sat: 60 - 97
   Total In:
                                                                  1,286 mL
                                                                  1,193 mL
   PO:
                                                                    720 mL
                                                                    100 mL
   TF:
   IVF:
                                                                    566 mL
                                                                  1,093 mL
   Blood products:
   Total out:
                                                                  1,532 mL
                                                                  1,564 mL
   Urine:
                                                                  1,120 mL
                                                                    367 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -246 mL
                                                                   -371 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: 7.41/43/81.[**Numeric Identifier 253**]/26/1
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : bibasilar)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 3+
   Skin:  Warm, LLE fluctant fluid, not warm.
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): times 3, Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   7.0 g/dL
   212 K/uL
   99 mg/dL
   1.8 mg/dL
   26 mEq/L
   4.2 mEq/L
   81 mg/dL
   98 mEq/L
   134 mEq/L
   23.0 %
   6.7 K/uL
        [image002.jpg]
                             [**2109-4-1**]  12:00 PM
                             [**2109-4-1**]  09:32 PM
                             [**2109-4-2**]  02:19 AM
                             [**2109-4-2**]  01:55 PM
                             [**2109-4-2**]  07:07 PM
                             [**2109-4-2**]  10:07 PM
                             [**2109-4-2**]  10:31 PM
                             [**2109-4-3**]  03:08 AM
                             [**2109-4-3**]  08:25 AM
                             [**2109-4-3**]  08:45 AM
   WBC
   12.1
   9.6
   6.7
   Hct
   28.8
   26.8
   24.8
   22.9
   23.2
   23.0
   Plt
   [**Telephone/Fax (3) 12144**]
   Cr
   2.5
   2.4
   2.4
   2.4
   1.9
   1.8
   TropT
   0.01
   <0.01
   0.01
   0.02
   TCO2
   28
   31
   28
   Glucose
   109
   120
   156
   146
   128
   116
   99
   Other labs: PT / PTT / INR:13.6/27.5/1.2, CK / CKMB /
   Troponin-T:30/3/0.02, ALT / AST:11/34, Alk Phos / T Bili:153/0.6,
   Differential-Neuts:94.4 %, Lymph:3.0 %, Mono:2.2 %, Eos:0.3 %, Lactic
   Acid:1.3 mmol/L, Albumin:3.5 g/dL, LDH:283 IU/L, Ca++:9.8 mg/dL,
   Mg++:2.3 mg/dL, PO4:4.7 mg/dL
   Assessment and Plan
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE):  Continue CVVH, goal 100cc per hour negative.
 HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC:  TTE is unchanged.
   HOTN:  continue levophed
   anemia:  Transfuse 1Unit.
   hematochezia:  stable ulcerative colitis and colonic ectasias.
   low sodium diet.
   can needle aspirate fluctuant area and culture.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2109-4-1**] 11:20 AM
   Multi Lumen - [**2109-4-1**] 05:29 PM
   Arterial Line - [**2109-4-2**] 12:29 PM
   Dialysis Catheter - [**2109-4-2**] 06:26 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2109-04-05 12:43:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   63 yo women with diastolic CHF, renal failure, fluid overload.  Had 1
   episode of BRBPR, stable HCT, BP.
   24 Hour Events:
   Allergies:
   Lisinopril
   Rash; Abdominal
   Kefzol (Intraven.) (Cefazolin Sodium)
   Hives;
   Sulfa (Sulfonamide Antibiotics)
   Hives; Nausea/V
   Shellfish Derived
   facial swelling
   Last dose of Antibiotics:
   Infusions:
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Other ICU medications:
   Other medications:
   RRT solutions
   [**Name2 (NI) **]
   SSI
   mesalamine
   FeSO4
   acetaminophen
   albuterol
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-4-5**] 12:42 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**10**] AM
   Tmax: 35.7
C (96.3
   Tcurrent: 35.6
C (96
   HR: 70 (62 - 84) bpm
   BP: 95/48(65) {76/40(54) - 129/76(99)} mmHg
   RR: 19 (8 - 24) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 82.1 kg (admission): 87.6 kg
   CVP: 19 (19 - 43)mmHg
   Total In:
                                                                  8,120 mL
                                                                  3,673 mL
   PO:
                                                                    460 mL
                                                                    160 mL
   TF:
   IVF:
                                                                  7,310 mL
                                                                  3,513 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                 12,647 mL
                                                                  7,335 mL
   Urine:
                                                                    735 mL
                                                                    350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -4,527 mL
                                                                 -3,662 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: 7.38/44/109/27/0
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : left base, Diminished:
   right base)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.0 g/dL
   148 K/uL
   148 mg/dL
   0.9 mg/dL
   27 mEq/L
   3.7 mEq/L
   28 mg/dL
   98 mEq/L
   138 mEq/L
   29.8 %
   5.0 K/uL
        [image002.jpg]
                             [**2109-4-4**]  02:22 AM
                             [**2109-4-4**]  11:08 AM
                             [**2109-4-4**]  02:30 PM
                             [**2109-4-4**]  04:50 PM
                             [**2109-4-4**]  05:19 PM
                             [**2109-4-4**]  10:01 PM
                             [**2109-4-4**]  10:20 PM
                             [**2109-4-5**]  04:03 AM
                             [**2109-4-5**]  04:19 AM
                             [**2109-4-5**]  10:22 AM
   WBC
   4.4
   5.0
   Hct
   28.3
   27.4
   29.8
   Plt
   119
   148
   Cr
   1.0
   1.0
   0.9
   TCO2
   31
   26
   29
   29
   30
   27
   Glucose
   125
   107
   141
   89
   108
   148
   Other labs: PT / PTT / INR:13.3/28.8/1.1, CK / CKMB /
   Troponin-T:30/3/0.02, ALT / AST:11/34, Alk Phos / T Bili:153/0.6,
   Differential-Neuts:94.4 %, Lymph:3.0 %, Mono:2.2 %, Eos:0.3 %, Lactic
   Acid:1.8 mmol/L, Albumin:3.5 g/dL, LDH:283 IU/L, Ca++:11.0 mg/dL,
   Mg++:1.7 mg/dL, PO4:2.1 mg/dL
   Fluid analysis / Other labs: U/A mod leuks
   Assessment and Plan
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC
   Massive fluid overload.  Much improved, continue aggressive fluid
   removal.
   Hematochezia:  continue PPI and asacol.  Follow Hct.  No further
   episodes.
   Acute on chronic renal failure.
   UTI: finished 3 day course for UTI.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2109-4-1**] 05:29 PM
   Arterial Line - [**2109-4-2**] 12:29 PM
   Dialysis Catheter - [**2109-4-2**] 06:26 PM
   Prophylaxis:
   DVT:
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2109-04-06 09:16:00 Physician Attending Progress Note
Chief Complaint: Acute renal failure, Dyspnea
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Feels well this AM - slept better last night
   24 Hour Events:
   8L negative yesterday
   History obtained from [**Hospital 85**] Medical records, icu team
   Allergies:
   Lisinopril
   Rash; Abdominal
   Kefzol (Intraven.) (Cefazolin Sodium)
   Hives;
   Sulfa (Sulfonamide Antibiotics)
   Hives; Nausea/V
   Shellfish Derived
   facial swelling
   Last dose of Antibiotics:
   Infusions:
   Calcium Gluconate (CRRT) - 1.6 grams/hour
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Respiratory: No(t) Dyspnea
   Genitourinary: Dialysis
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2109-4-6**] 09:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**10**] AM
   Tmax: 36.1
C (97
   Tcurrent: 35.8
C (96.5
   HR: 77 (67 - 92) bpm
   BP: 105/62(79) {74/45(56) - 117/69(89)} mmHg
   RR: 17 (12 - 23) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 78 kg (admission): 87.6 kg
   Height: 64 Inch
   CVP: 32 (19 - 32)mmHg
   Total In:
                                                                  7,193 mL
                                                                  2,202 mL
   PO:
                                                                    580 mL
   TF:
   IVF:
                                                                  6,613 mL
                                                                  2,202 mL
   Blood products:
   Total out:
                                                                 15,221 mL
                                                                  2,613 mL
   Urine:
                                                                    640 mL
                                                                    135 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -8,028 mL
                                                                   -411 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: 7.44/42/95.[**Numeric Identifier 607**]/28/3
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, conversive
   Labs / Radiology
   8.6 g/dL
   137 K/uL
   94 mg/dL
   0.7 mg/dL
   28 mEq/L
   4.3 mEq/L
   19 mg/dL
   99 mEq/L
   138 mEq/L
   27.5 %
   4.0 K/uL
        [image002.jpg]
                             [**2109-4-4**]  10:01 PM
                             [**2109-4-4**]  10:20 PM
                             [**2109-4-5**]  04:03 AM
                             [**2109-4-5**]  04:19 AM
                             [**2109-4-5**]  10:22 AM
                             [**2109-4-5**]  04:56 PM
                             [**2109-4-5**]  10:32 PM
                             [**2109-4-5**]  10:42 PM
                             [**2109-4-6**]  04:16 AM
                             [**2109-4-6**]  04:30 AM
   WBC
   5.0
   4.0
   Hct
   27.4
   29.8
   27.5
   Plt
   148
   137
   Cr
   1.0
   0.9
   0.8
   0.7
   0.7
   TCO2
   29
   30
   27
   30
   29
   Glucose
   89
   108
   148
   90
   105
   107
   94
   94
   Other labs: PT / PTT / INR:13.4/29.5/1.1, CK / CKMB /
   Troponin-T:30/3/0.02, ALT / AST:11/34, Alk Phos / T Bili:153/0.6,
   Differential-Neuts:94.4 %, Lymph:3.0 %, Mono:2.2 %, Eos:0.3 %, Lactic
   Acid:0.9 mmol/L, Albumin:3.5 g/dL, LDH:283 IU/L, Ca++:10.4 mg/dL,
   Mg++:1.7 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC
   63 yo woman with massive volume overload, acute on chronic renal
   failure
   Massive fluid overload.  8L off yesterday - plan to cont CVVH today and
   perhaps transition to HD tomorrow.  Appreciate ongoing renal input.
   Acute Renal Failure: CVVH transition to HD as above
   Hematochezia/UC:  continue PPI.  Pt currently refusing asachol/
   Remainder of issues per ICU team
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2109-4-1**] 05:29 PM
   Arterial Line - [**2109-4-2**] 12:29 PM
   Dialysis Catheter - [**2109-4-2**] 06:26 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 31 minutes
   Patient is critically ill

2109-04-07 11:37:00 Physician Attending Progress Note
Chief Complaint: Renal Failure, Anasarca
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Somnolent this AM but no complaints
   24 Hour Events:
   5L off yesterday and 3L additional liters off today so far
   History obtained from [**Hospital 85**] Medical records, icu team
   Allergies:
   Lisinopril
   Rash; Abdominal
   Kefzol (Intraven.) (Cefazolin Sodium)
   Hives;
   Sulfa (Sulfonamide Antibiotics)
   Hives; Nausea/V
   Shellfish Derived
   facial swelling
   Last dose of Antibiotics:
   Infusions:
   Calcium Gluconate (CRRT) - 1.6 grams/hour
   KCl (CRRT) - 6 mEq./hour
   Other ICU medications:
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: Tachycardia
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2109-4-7**] 11:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**10**] AM
   Tmax: 35.8
C (96.5
   Tcurrent: 35.8
C (96.5
   HR: 104 (77 - 104) bpm
   BP: 81/44(57) {81/44(53) - 123/68(88)} mmHg
   RR: 14 (11 - 26) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 73.6 kg (admission): 87.6 kg
   Height: 64 Inch
   CVP: 17 (17 - 30)mmHg
   Total In:
                                                                  7,243 mL
                                                                  3,774 mL
   PO:
                                                                    680 mL
                                                                    420 mL
   TF:
   IVF:
                                                                  6,563 mL
                                                                  3,354 mL
   Blood products:
   Total out:
                                                                 12,441 mL
                                                                  6,794 mL
   Urine:
                                                                    435 mL
                                                                    240 mL
   NG:
                                                                     30 mL
                                                                     30 mL
   Stool:
   Drains:
   Balance:
                                                                 -5,198 mL
                                                                 -3,020 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: 7.42/41/101/ 29/1
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, Somnolent
   Labs / Radiology
   8.7
    164
   120 mg/dL
   0.8
    29
   3.4 mEq/L
   14
   97
   135
   27.3
   5.1
        [image002.jpg]
                             [**2109-4-5**]  10:32 PM
                             [**2109-4-5**]  10:42 PM
                             [**2109-4-6**]  04:16 AM
                             [**2109-4-6**]  04:30 AM
                             [**2109-4-6**]  10:06 AM
                             [**2109-4-6**]  10:14 AM
                             [**2109-4-6**]  02:32 PM
                             [**2109-4-6**]  08:52 PM
                             [**2109-4-7**]  02:21 AM
                             [**2109-4-7**]  08:30 AM
   WBC
   4.0
   5.1
   Hct
   27.5
   25.0
   28.2
   27.3
   Plt
   137
    164
   Cr
   0.7
   0.7
   0.8
   0.8
   TCO2
   30
   29
   26
   28
   28
   Glucose
   105
   107
   94
   94
   115
   126
   122
   106
   120
   Other labs: PT / PTT / INR: 12.7/ 29.0/ 1.1, CK / CKMB /
   Troponin-T:30/3/0.02, ALT / AST:11/34, Alk Phos / T Bili:153/0.6,
   Differential-Neuts:94.4 %, Lymph:3.0 %, Mono:2.2 %, Eos:0.3 %, Lactic
   Acid:1.1, Albumin:3.5 g/dL, LDH:283 IU/L, Ca++:11.6, Mg++:2.0, PO4:2.0
   Assessment and Plan
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC
   63 yo woman with massive volume overload, acute on chronic renal
   failure
   Massive fluid overload.  Additional 5L off yesterday and 3L off today.
   Plan to transition to regular HD tomorrow.  Appreciate ongoing renal
   input.
   Acute Renal Failure: CVVH transition to HD as above
   Hematochezia/UC:  Cont PPI.  Pt only intermittently taking Asachol
   Remainder of issues per ICU team
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2109-4-1**] 05:29 PM
   Arterial Line - [**2109-4-2**] 12:29 PM
   Dialysis Catheter - [**2109-4-2**] 06:26 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 31 minutes
   Patient is critically ill

2109-04-08 11:03:00 Physician Attending Progress Note
Chief Complaint: Volume overload, renal failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   3L negative yesterday
   24 Hour Events:
 EKG - At [**2109-4-8**] 06:38 AM
   MD [**Last Name (un) 12190**] notified. EKG for elevated K.
   History obtained from [**Hospital 85**] Medical records, icu team
   Allergies:
   Lisinopril
   Rash; Abdominal
   Kefzol (Intraven.) (Cefazolin Sodium)
   Hives;
   Sulfa (Sulfonamide Antibiotics)
   Hives; Nausea/V
   Shellfish Derived
   facial swelling
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Tachycardia
   Genitourinary: Dialysis
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2109-4-8**] 11:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**10**] AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.2
C (97.2
   HR: 89 (89 - 119) bpm
   BP: 93/51(66) {81/44(57) - 125/73(92)} mmHg
   RR: 15 (13 - 23) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 71.6 kg (admission): 87.6 kg
   Height: 64 Inch
   CVP: 20 (16 - 28)mmHg
   Total In:
                                                                  4,559 mL
                                                                    780 mL
   PO:
                                                                    920 mL
                                                                    730 mL
   TF:
   IVF:
                                                                  3,639 mL
                                                                     50 mL
   Blood products:
   Total out:
                                                                  7,507 mL
                                                                    210 mL
   Urine:
                                                                    475 mL
                                                                    210 mL
   NG:
                                                                     30 mL
   Stool:
   Drains:
   Balance:
                                                                 -2,948 mL
                                                                    570 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: /// 32/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, convresive
   Labs / Radiology
   8.7
    173
   87
   1.2
    32
    5.7
   22
   96
   132
   27.1
   5.1
        [image002.jpg]
                             [**2109-4-6**]  04:16 AM
                             [**2109-4-6**]  04:30 AM
                             [**2109-4-6**]  10:06 AM
                             [**2109-4-6**]  10:14 AM
                             [**2109-4-6**]  02:32 PM
                             [**2109-4-6**]  08:52 PM
                             [**2109-4-7**]  02:21 AM
                             [**2109-4-7**]  08:30 AM
                             [**2109-4-7**]  02:01 PM
                             [**2109-4-8**]  02:09 AM
   WBC
   4.0
   5.1
   5.1
   Hct
   27.5
   25.0
   28.2
   27.3
   27.1
   Plt
   137
    164
    173
   Cr
   0.7
   0.8
   0.8
   0.9
   1.2
   TCO2
   29
   26
   28
   28
   Glucose
   94
   94
   115
   126
   122
   106
   120
   97
   87
   Other labs: PT / PTT / INR: 12.7/ 29.0/ 1.1, CK / CKMB /
   Troponin-T:30/3/0.02, ALT / AST:11/34, Alk Phos / T Bili:153/0.6,
   Differential-Neuts:94.4 %, Lymph:3.0 %, Mono:2.2 %, Eos:0.3 %, Lactic
   Acid:1.1, Albumin:3.5 g/dL, LDH:283 IU/L, Ca++:10.4, Mg++:1.8 mg/dL,
   PO4:4.0 mg/dL
   Assessment and Plan
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC
   63 yo woman with massive volume overload, acute on chronic renal
   failure
   Massive fluid overload.  Going to get regular HD today.  K elevated but
   no EKG changes.
   Acute Renal Failure: CVVH transition to HD as above
   Hematochezia/UC:  Cont PPI.  Pt refusing Asachol.
   Remainder of issues per ICU team
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2109-4-1**] 05:29 PM
   Arterial Line - [**2109-4-2**] 12:29 PM
   Dialysis Catheter - [**2109-4-2**] 06:26 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 31 minutes
   Patient is critically ill